US05807859
10-Hydroxymethylene-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one may be obtained in the following way: a solution of 1.4 g of 10-dimethylaminomethylene-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one in 35 ml of 5N hydrochloric acid is stirred for 30 minutes at a temperature in the region of 25° C. After addition of 60 ml of water and neutralization with 120 ml of saturated aqueous sodium hydrogen carbonate, the solid formed is isolated by filtration, washed twice with 60 ml in total of water and air-dried. The product obtained (1.1 g) is dissolved in 120 ml of dimethyl sulphoxide and, after addition of 120 ml of water, the solid formed is isolated by filtration, washed twice with 10 ml in total of distilled water and twice with 10 ml in total of acetone and then dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 1 g of 10-hydroxymethylene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained as a 60/40 mixture of the Z and E forms, decomposing without melting at 290° C. [NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): a 60/40 mixture of isomers is observed: from 7.20 to 7.40 (mt, 2H: --H7 and --H8); 7.56 and 7.64-8.29 and 8.79 (4 broad s, twice 1H: --H of the imidazole); from 7.80 to 8.15 (mt, 2H: --H6 and --H9); 8.21 and 8.24 (2s, 1H in total: =CH--O--); 12.43 (mult., 1H: --NH--)].

reactant | 10-dimethylaminomethylene-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 1.4 g | CN(C)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C16H14N4O
reactant | water | 60 ml | O | H2O
reactant | sodium hydrogen carbonate | 120 ml | C(O)([O-])=O.[Na+]
reactant | water | 120 ml | O | H2O
solvent | hydrochloric acid | 5N, 35 ml | Cl | ClH
solvent | dimethyl sulphoxide | 120 ml | CS(=O)C | C2H6OS
product | 10-hydroxymethylene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | OC=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H9N3O2
